** sch_path: /foss/designs/sram-sense-amp/xschem/offset_voltage_tester/offset-voltage-tester.sch
**.subckt offset-voltage-tester
XM8 net1 SE GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM1 Voutp Voutn net1 net1 sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM3 Voutn Voutp VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM2 Voutp Voutn VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM4 Voutn Voutp net1 net1 sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM6 Voutp SE BL VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM9 Voutn SE BLB VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
* noconn SE
* noconn BLB
* noconn BL
C1 BL GND 0.5p m=1
C2 BLB GND 0.5p m=1
**** begin user architecture code



.lib cornerMOSlv.lib mos_tt_mismatch

.param VDD=1.2
.param VCM=1.2
.param vind=0

.param TPER=10n
.param TSE_DLY=4n
.param TSE_W=3n
.param TR=100p
.param TF=100p
.param TEVAL=6.5n

VDD_S VDD 0 {VDD}
VSE SE 0 PULSE(0 {VDD} {TSE_DLY} {TR} {TF} {TSE_W} {TPER})
* SE Pulse:
* 0V -> VDD @ TSE_DLY
* Stays high for TSE_W
* Repeats every TPER

B_BLDRV BLDRV 0 V = {VCM + vind / 2}
B_BLBDRV BLBDRV 0 V = {VCM - vind / 2}

RBL BLDRV BL 50
RBLB BLBDRV BLB 50

.control
set noaskquit
set numdgt=10

let vin_min = -0.005
let vin_max =  0.005
let nbit = 12
let voutd_th = 0

let tstop = 10n
let teval = 6.5n

let vind_range = vin_max - vin_min
let vind_dir = 1
let reset_state = 1
let count = 1
let vind_sar_val = vin_min + vind_range / 2
let vind_val = vin_min
let vos_r = 0
let vos_f = 0
let vod_last = 0
let lsb = 0
let vos_candidate = 0

while 1

  if reset_state = 1
    if vind_dir = 1
      let vind_val = vin_min
    else
      let vind_val = vin_max
    end

    alterparam vind = $&vind_val
    reset
    tran 5p $&tstop
    meas tran vop FIND v(voutp) AT=$&teval
    meas tran von FIND v(voutn) AT=$&teval
    let vod_last = $&vop - $&von

    let reset_state = 0
    continue
  end

  let vind_val = vind_sar_val
  alterparam vind = $&vind_val
  reset
  tran 5p $&tstop
  meas tran vop FIND v(voutp) AT=$&teval
  meas tran von FIND v(voutn) AT=$&teval
  let vod_last = $&vop - $&von

  if count < nbit
    let count = count + 1

    if vod_last > voutd_th
      let vind_sar_val = vind_sar_val - vind_range / (2^count)
      if vind_dir = 1
        let reset_state = 1
      end
    else
      let vind_sar_val = vind_sar_val + vind_range / (2^count)
      if vind_dir = 0
        let reset_state = 1
      end
    end

  else
    let lsb = vind_range / (2^count)

    if vod_last > voutd_th
      let vos_candidate = vind_sar_val - lsb/2
    else
      let vos_candidate = vind_sar_val + lsb/2
    end

    if vind_dir = 1
      let vos_r = $&vos_candidate

      let vind_dir = 0
      let count = 1
      let vind_sar_val = vin_min + vind_range / 2
      let reset_state = 1
      let vind_val = vin_max
      continue
    else
      let vos_f = $&vos_candidate
      break
    end
  end

end

let vos_avg = (vos_r + vos_f) / 2
let vos_diff = vos_r - vos_f

echo 'vos_r = ' $&vos_r
echo 'vos_f = ' $&vos_f
echo 'diff  = ' $&vos_diff
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
